US06005010
Methyl 4-nitrophthalate was reacted in DMF with sodium phenoxide to give dimethyl 4-phenoxyphthalate in analogy to a process known from the literature (J. Org. Chem. Vol. 42, No. 21, 1977, 3419-3425). After standard working up and chromatography using hexane/EA, the diester was isolated as a yellowish oil.

reactant | Methyl 4-nitrophthalate | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)C(=O)[O-]
reactant | sodium phenoxide | [O-]C1=CC=CC=C1.[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
product | dimethyl 4-phenoxyphthalate | O(C1=CC=CC=C1)C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C16H14O5
